US07807708B2
In a manner similar to that of Example 38b, by reacting 490 mg of ethyl 4″-(acetylethylamino)-4′-(3-bromopropyl)-3″-tert-butyl[1,1′;3′,1″]terphenyl-4-carboxylate (0.87 mmol) with 0.6 mL of cyclopropylamine (9 mmol). 270 mg of ethyl 4″-(acetylethylamino)-3″-tert-butyl-4′-(3-cyclopropylaminopropyl)-[1,1′;3′,1″]terphenyl-4-carboxylate are obtained (yield=57%) in the form of an orange-colored oil.

reactant | ethyl 4″-(acetylethylamino)-4′-(3-bromopropyl)-3″-tert-butyl[1,1′;3′,1″]terphenyl-4-carboxylate | 0.87 mmol, 490 mg | C(C)(=O)CCNC1=C(C=C(C=C1)C=1C=C(C=CC1CCCBr)C1=CC=C(C=C1)C(=O)OCC)C(C)(C)C | C32H38BrNO3
reactant | cyclopropylamine | 9 mmol, 0.6 mL | C1(CC1)N | C3H7N
product | ethyl 4″-(acetylethylamino)-3″-tert-butyl-4′-(3-cyclopropylaminopropyl)-[1,1′;3′,1″]terphenyl-4-carboxylate | 270 mg, yield=57% | C(C)(=O)CCNC1=C(C=C(C=C1)C=1C=C(C=CC1CCCNC1CC1)C1=CC=C(C=C1)C(=O)OCC)C(C)(C)C | C35H44N2O3
